* PART NUMBER: NJM4580
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM4580_SUB OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1 +IN1 -IN1 VCC VEE OUT1 NJM4580
X_U2 +IN2 -IN2 VCC VEE OUT2 NJM4580
.ends NJM4580_SUB
.subckt NJM4580 1 2 3 4 5
 c1 11 12 8.6603E-12
 c2 6 7 30.000E-12
 dc 5 53 dy
 de 54 5 dy
 dlp 90 91 dx
 dln 92 90 dx
 dp 4 3 dx
 egnd 99 0 poly(2) (3,0) (4,0) 0 .5 .5
 fb 7 99 poly(5) vb vc ve vlp vln 0 4.4738E6 -1E3 1E3 4E6 -4E6
 ga 6 0 11 12 2.9274E-3
 gcm 0 6 10 99 9.2572E-9
 iee 3 10 dc 150.20E-6
 hlim 90 0 vlim 1K
 q1 11 2 13 qx1
 q2 12 1 14 qx2
 r2 6 9 100.00E3
 rc1 4 11 353.68
 rc2 4 12 353.68
 re1 13 10 8.8102
 re2 14 10 8.8102
 ree 10 99 1.3316E6
 ro1 8 5 50
 ro2 7 99 25
 rp 3 4 1.1314E3
 vb 9 0 dc 0
 vc 3 53 dc 2.2979
 ve 54 4 dc 2.2979
 vlim 7 8 dc 0
 vlp 91 0 dc 5.4000
 vln 0 92 dc 5.4000
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=689.66)
.model qx2 PNP(Is=898.3900E-18 Bf=821.92)
.ends 